US06211215B1
In substantially the same manner as in Reference Example 12, 2-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]ethanol was allowed to react with methanesulfonyl chloride to give 2-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]ethyl methanesulfonate. The yield was 82%. Recrystallization from acetone-isopropyl ether gave colorless prisms, mp 121-122° C.

reactant | 2-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]ethanol | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCO | C20H19NO3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 2-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]ethyl methanesulfonate | yield was 82% | CS(=O)(=O)OCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C21H21NO5S
